US04228069
2-Methylazo-2-acetoxybutane was prepared in 99% yield by oxidizing 10.0 grams (0.1 moles) of methyl ethyl ketone methylhydrazone with 53.2 grams (0.12 moles) lead tetraacetate in 150 ml. methylene chloride.

reactant | methyl ethyl ketone methylhydrazone | 0.1 moles, 10.0 grams | CNN=C(C)CC | C5H12N2
reactant | lead tetraacetate | 0.12 moles, 53.2 grams | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methylazo-2-acetoxybutane | 99% yield | CN=NC(C)(CC)OC(C)=O | C7H14N2O2
